US05041455
A. 3-(4-(4-pentenyloxy)-1,2,5-thiadiazol-3-yl)pyridine
To a solution of 4-penten-1-ol (640 mg, 7.5 mmol) and sodium hydride (260 mg, 7.5 mmol) in dry tetrahydrofuran was added a solution of 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine (490 mg, 2.5 mmol) in dry tetrahydrofuran. The reaction mixture was stirred at room temperature for 1 h. Water was added and the mixture was extracted with ether. The ether phase was dried and evaporated to give the title compound.

reactant | 4-penten-1-ol | 7.5 mmol, 640 mg | C(CCC=C)O | C5H10O
reactant | sodium hydride | 7.5 mmol, 260 mg | [H-].[Na+]
reactant | 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine | 2.5 mmol, 490 mg | ClC=1C(=NSN1)C=1C=NC=CC1 | C7H4ClN3S
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(4-(4-pentenyloxy)-1,2,5-thiadiazol-3-yl)pyridine | C(CCC=C)OC=1C(=NSN1)C=1C=NC=CC1 | C12H13N3OS
